US08008305B2
b) 6-(4-Methyl-piperazin-1-yl)-nicotinic acid
A solution of 6-(4-methyl-piperazin-1-yl)-nicotinic acid methyl ester (5.56 g) in MeOH/H2O 1:1 (100 ml) was cooled to 0° C. and treated with NaOH (1.9 g). The reaction mixture was stirred for 45 min at 0° C. and for 5 hrs at r.t., then neutralized with 1N HCl and concentrated. The crude product was used in the next reaction step without further purification.

reactant | 6-(4-methyl-piperazin-1-yl)-nicotinic acid methyl ester | 5.56 g | COC(C1=CN=C(C=C1)N1CCN(CC1)C)=O | C12H17N3O2
reactant | NaOH | 1.9 g | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH H2O | 100 ml | CO.O
product | 6-(4-Methyl-piperazin-1-yl)-nicotinic acid | CN1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C11H15N3O2
